US04970213
4.5 g of ethylamine are added in the course of 10 minutes, at between 5° and 10° C., to a stirred suspension of 7.1 g of ethyl 2-(2-chloro-6,7,8-trifluoroquinoline-3-carbonyl)-3-dimethylaminoacrylate in 100 cm3 of ethanol kept at a temperature close to 5° C., the mixture is stirred for 1 hour at between 5° and 10° C. and the temperature is allowed to rise to about 20° C. 4 g of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) are added to the solution obtained and the mixture is heated at a temperature close to 75° C. for 1 hour and a half. After cooling to a temperature close to 20° C., the product is drained and washed with twice 30 cm3 of ethanol and twice 50 cm3 of diisopropyl ether. 4 g of 3-ethoxycarbonyl-1-ethyl-7,8,9-tri fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine are obtained in the form of a cream solid melting at 284° C., which is used for the subsequent steps without further purification.

reactant | ethylamine | 4.5 g | C(C)N | C2H7N
reactant | ethyl 2-(2-chloro-6,7,8-trifluoroquinoline-3-carbonyl)-3-dimethylaminoacrylate | 7.1 g | ClC1=NC2=C(C(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CN(C)C)F)F)F | C17H14ClF3N2O3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 4 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
product | 3-ethoxycarbonyl-1-ethyl-7,8,9-tri fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 4 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)CC)C(=C(C(=C3)F)F)F)=O | C17H13F3N2O3
